US09034866B2
Synthesis of ethyl 9-iodo-4-oxo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate
A solution of ethyl 4,4-dibromo-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate (0.93 g, 1.71 mmol) in acetone (40 ml) and water (10 ml) was treated with silver(I) nitrate (0.78 g, 4.59 mmol) and then stirred at room temperature for 2 hours. The solids were removed by filtration through celite and carefully washed with acetone (3×50 ml). The filtrate and washings were combined and concentrated in vacuo before the residue was distributed between ethyl acetate (300 ml) and brine (100 ml). The organic layer was separated, dried over MgSO4, filtered and concentrated. The residue was purified by FCC (silica, 0-20% ethyl acetate in heptane) to give 0.54 g (79%) of the title compound as crystalline solid. 1H-NMR (500 MHz, CDCl3) 8 ppm 1.45 (3H, t, J=7.10 Hz), 4.48 (2H, q, J=7.17 Hz), 4.78 (2H, s), 7.06 (1H, d, J=8.39 Hz), 7.67 (1H, s), 7.70 (1H, dd, J=8.54, 2.14 Hz), 8.44 (1H, d, J=2.14 Hz); M+1=399.

reactant | ethyl 4,4-dibromo-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 1.71 mmol, 0.93 g | BrC1(C=2N(C3=C(OC1)C=CC(=C3)I)N=C(C2)C(=O)OCC)Br | C14H11Br2IN2O3
reactant | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
catalyst | silver(I) nitrate | 4.59 mmol, 0.78 g | [N+](=O)([O-])[O-].[Ag+]
product | ethyl 9-iodo-4-oxo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 0.54 g, 79% | IC1=CC2=C(OCC(C=3N2N=C(C3)C(=O)OCC)=O)C=C1 | C14H11IN2O4
